US09169259B2
A mixture of (S)-6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (0.10 g, 0.30 mmol), methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.096 g, 0.36 mmol), Pd2(dba)3 (0.035 g, 0.061 mmol), X-phos (0.057 g, 0.122 mmol) and Na2CO3 (0.095 g, 0.912 mmol) in dioxane (20 mL) and water (5 mL) was heated to 100° C. for 16 h in a sealed tube under N2 atmosphere then concentrated in vacuo. The residue was purified by chromatography (silica gel, 10 g, 200˜300 mesh, ethyl acetate:petroleum ether=1:10) and further purified by Prep-HPLC (Gemini 5u C18 150×21.2 mm; inject volume: 3 mL/inj, flow rate: 20 mL/min; wavelength: 214 nm and 254 nm; gradient conditions: 30% acetonitrile/70% water (0.1% TFA V/V) initially, proceeding to 60% acetonitrile/40% water (0.1% TFA V/V) in a linear fashion over 9 min) to afford (S)-3-(8-(6-(2-methylpyrrolidin-1-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (32 mg, 25%) as a yellow solid. 1H NMR (300 MHz, DMSO): δ 10.97 (s, 1H), 9.26 (s, 1H), 8.63 (s, 1H), 8.48 (s, 1H), 8.37 (s, 1H), 8.20 (d, 1H, J=7.8 Hz), 8.13-8.11 (m, 1H), 7.71 (t, 1H, J=7.8 Hz), 7.51 (t, 1H, J=7.8 Hz), 6.69 (d, 1H, J=7.5 Hz), 6.16 (d, 1H, J=8.1 Hz), 4.22-4.17 (m, 1H), 3.63-3.54 (m, 1H), 3.44-3.39 (m, 1H), 2.06-1.95 (m, 3H), 1.67-1.61 (m, 1H), 1.07 (d, 3H, J=6.3 Hz). LC-MS: [M+H]+, 415, tR=1.669 min, HPLC: 100% at 214 nm, 100% at 254 nm, tR=6.01 min.

reactant | (S)-6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.30 mmol, 0.10 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2[C@H](CCC2)C | C16H17ClN6
reactant | methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.36 mmol, 0.096 g | CC1(OB(OC1(C)C)C=1C=C(C(=O)OC)C=CC1)C | C14H19BO4
reactant | X-phos | 0.122 mmol, 0.057 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 0.912 mmol, 0.095 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.061 mmol, 0.035 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-3-(8-(6-(2-methylpyrrolidin-1-yl)pyridine-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 32 mg, 25% | C[C@@H]1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C23H22N6O2
